**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT bdx34c 1 2 3
* Model generated on Dec 24, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 11.5242
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.96109 N=0.999611 XTI=2.99961
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=9.96197e-13 BF=130.6 NF=1.09163 VAF=82.8066
+IKF=0.124415 ISE=1.63236e-12 NE=1.58838 BR=0.999604
+NR=0.999458 VAR=96.4393 IKR=0.0999961 ISC=1e-13
+NC=1.99961 RB=9.97438 IRB=0.199611 RBM=9.97438
+RE=0.100174 RC=0.996978 XTB=0.497241 XTI=2.99967 EG=1.11187
+CJE=1.57143e-10 VJE=2 MJE=2.3e-05 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.46924e-10
+VJC=0.95 MJC=0.244591 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=9.96197e-13 BF=130.6 NF=1.09163 VAF=82.8066
+IKF=0.124415 ISE=1.63236e-12 NE=1.58838 BR=0.999604
+NR=0.999458 VAR=96.4393 IKR=0.0999961 ISC=1e-13
+NC=1.99961 RB=9.97438 IRB=0.199611 RBM=9.97438
+RE=0.100174 RC=0.996978 XTB=0.497241 XTI=2.99967 EG=1.11187
+CJE=1.57143e-10 VJE=2 MJE=2.3e-05 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.244591 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
